US07576074B2
N-(3,4-Dichlorophenyl)-6-(methyloxy)-7-{[(2-piperidin-4-yl-1,3-thiazol-4-yl)methyl]oxy}quinazolin-4-amine (0.078 g, 0.15 mmol) was combined with 37% aqueous formaldehyde (0.025 mL, 0.34 mmol) in formic acid (2 mL) and the solution was heated to 95° C. for 1 h. The solvent was removed in vacuo and the residue was taken up in 10% MeOH/ethyl acetate (100 mL) and washed with saturated NaHCO3 (aq) (100 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. Trituration from MeOH and treatment of the resultant yellow solid with 4.0 M HCl/dioxane (0.050 mL) in MeOH, followed by lyophilization, provided 0.032 g (37%) of N-(3,4-dichlorophenyl)-6-(methyloxy)-7-({[2-(1-methylpiperidin-4-yl)-1,3-thiazol-4-yl]methyl}oxy)quinazolin-4-amine hydrochloride as a pale yellow solid. 1H NMR (400 MHz, d6-DMSO): 8.55 (s, 1H), 8.25 (d, 1H), 7.89 (dd, 2H), 7.76 (s, 1H), 7.63 (d, 1H), 7.41 (s, 1H), 5.30 (s, 2H), 3.96 (s, 3H), 3.52 (d, 2H), 3.29 (m, 2H), 3.08 (m, 1H), 2.79 (s, 3H), 2.29 (d, 2H), 1.95 (m, 2H); MS (EI) for C26H25N5O2SCl2: 530 (MH+).

reactant | N-(3,4-Dichlorophenyl)-6-(methyloxy)-7-{[(2-piperidin-4-yl-1,3-thiazol-4-yl)methyl]oxy}quinazolin-4-amine | 0.15 mmol, 0.078 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1N=C(SC1)C1CCNCC1 | C24H23Cl2N5O2S
reactant | formaldehyde | 0.34 mmol, 0.025 mL | C=O | CH2O
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | N-(3,4-dichlorophenyl)-6-(methyloxy)-7-({[2-(1-methylpiperidin-4-yl)-1,3-thiazol-4-yl]methyl}oxy)quinazolin-4-amine hydrochloride | 0.032 g, 37% | Cl.ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1N=C(SC1)C1CCN(CC1)C | InChI=1S/C25H25Cl2N5O2S.ClH/c1-32-7-5-15(6-8-32)25-31-17(13-35-25)12-34-23-11-21-18(10-22(23)33-2)24(29-14-28-21)30-16-3-4-19(26)20(27)9-16;/h3-4,9-11,13-15H,5-8,12H2,1-2H3,(H,28,29,30);1H
